US05834501
5-{4-(3-Methylimidazo[5,4-b]pyridin-2-ylmethoxy)-benzylidene}thiazolidine-2,4-dione (Compound No. 2-100)
A mixture of 0.35 g of 2-(4-formylphenoxymethyl)-3-methylimidazo[5,4-b]pyridine (prepared as described in Preparation 112), 0.31 g of 2,4-thiazolidinedione, 0.26 ml of piperidine and 10 ml of ethanol was heated under reflux for 4 hours. At the end of this time, the solvent was removed by distillation under reduced pressure and the residue was crystallized by trituration with water. The crystals were collected by filtration and washed with water and then with ethyl acetate, to give 0.38 g of the title compound, melting at 279°-281° C.

reactant | 2-(4-formylphenoxymethyl)-3-methylimidazo[5,4-b]pyridine | 0.35 g | C(=O)C1=CC=C(OCC=2N(C3=NC=CC=C3N2)C)C=C1 | C15H13N3O2
reactant | 2,4-thiazolidinedione | 0.31 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidine | 0.26 ml | N1CCCCC1 | C5H11N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-{4-(3-Methylimidazo[5,4-b]pyridin-2-ylmethoxy)-benzylidene}thiazolidine-2,4-dione | 0.38 g | CN1C(=NC=2C1=NC=CC2)COC2=CC=C(C=C1C(NC(S1)=O)=O)C=C2 | C18H14N4O3S
